US08536210B2
3-(4,5-Diphenyl-1,3-oxazol-2-yl)propanal O-(phenylcarbamoyl)oxime (compound 42)
To a cooled (ice and water bath) and stirred solution of 3-(4,5-diphenyl-1,3-oxazol-2-yl)propanal (300 mg, 1.02 mmol, Pridgen L. N. et al in Tetrahedron Lett., 25(27), 2835 (1984)) in dry acetonitrile (10 ml), 2-3 drops of triethylamine was added. A solution of phenyl isocyanate in 2 ml of dry acetonitrile was added dropwise at such rate, that the internal temperature remained below 30° C. The resulting reaction mixture was stirred at room temperature until the starting material was consumed (19 h, monitored by TLC). The light precipitate was filtered off and the solvent was evaporated in vacuo. The yellow oily crude product was purified by column chromatography with dichloromethane as eluent and crystallized from n-hexane.

reactant | water | O | H2O
reactant | 3-(4,5-diphenyl-1,3-oxazol-2-yl)propanal | 1.02 mmol, 300 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CCC=O | C18H15NO2
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
reactant | acetonitrile | 2 ml | C(C)#N | C2H3N
catalyst | triethylamine | 2-3 drops | C(C)N(CC)CC | C6H15N
product | 3-(4,5-Diphenyl-1,3-oxazol-2-yl)propanal O-(phenylcarbamoyl)oxime | C1(=CC=CC=C1)NC(=O)ON=CCCC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C25H21N3O3
